* C:\Users\paulh\OneDrive\source\SoapyHifiBerry\LTSpice\MUXModel_2.asc
S7 N009 00 V_270_deg 0 MYSW
S2 N009 01 V_90_deg 0 MYSW
S4 N009 10 V_180_deg 0 MYSW
S6 N009 11 V_0_deg 0 MYSW
V3 N009 0 SINE(0 1uV 10.19Meg) AC 1mV Rser=200
C1 N010 0 4.7n
C2 N011 0 4.7n
C3 N014 0 4.7n
C4 N018 0 4.7n
R5 N004 N010 100
R6 Vdd N011 100
R7 N012 N014 100
R8 Vdd N018 100
C9 N010 00 10µ
C10 N011 01 10µ
C11 N014 10 10µ
C12 N018 11 10µ
R1 N005 N004 10k
R2 N013 N012 10k
R3 Vcc Vdd 4.7k
R4 Vdd 0 4.7k
C5 Vcc 0 100n
V4 Vcc 0 5 Rser=10
R11 N007 N005 5.1k
R12 N003 N002 5.1k
R13 N017 N016 5.1k
R14 N020 N013 5.1k
R15 N008 N007 5.1k
R16 N021 N020 5.1k
C8 N008 0 68p
C13 N021 0 68p
R17 N016 N015 5.1k
R18 N002 N001 5.1k
C14 N001 0 10µ
C15 N015 0 10µ
C6 N006 N003 10µ
C7 N019 N017 10µ
R9 N006 0 2k
R10 N019 0 2k
C16 N003 N007 68p
C17 N017 N020 68p
V5 V_0_deg 0 PULSE(0 1 0 0.001p 0.001p {SW_time} {4*SW_time})
V6 V_90_deg 0 PULSE(0 1 {SW_time} 0.001p 0.001p {SW_time} {4*SW_time})
V7 V_180_deg 0 PULSE(0 1 {2*SW_time} 0.001p 0.001p {SW_time} {4*SW_time})
V8 V_270_deg 0 PULSE(0 1 {3*SW_time} 0.001p 0.001p {SW_time} {4*SW_time})
XU3 N021 N016 N017 Vcc 0 LT6231
XU4 N008 N002 N003 Vcc 0 LT6231
XU1 Vdd N012 N013 Vcc 0 LT6231
XU2 Vdd N004 N005 Vcc 0 LT6231
.model MYSW SW(Vt=0.9 Vh=0 Ron=5 Roff=100G)
.tran 0 100u 0 0.01u
* Multiplexer Model
* Signals for voltage-controlled switches \nused to simulate our multiplexer.
;step oct param Audio_freq 1000 10000 1
.param Audio_freq 15000
.param RF_freq=10Meg LO_freq={RF_freq} LO_period={1/LO_freq} SW_time={LO_period/4}
.lib LTC2.LIB
.backanno
.end
